US04775677
[4-Oxo-3-(3,4-dibromophenyl)-2-[(3,4-dibromophenyl)imino]-5-thiazolidinylidene]acetic acid
Prepared by the method described in Example 21 from N,N'-bis(3,4-dibromophenyl)thiourea (13.7 g, 25 mmoles) and acetylenedicarboxylic acid (2.7 g, 25 mmoles). Recrystallization from methanol gave the product (2.1 g), mp 235°-237° C.

reactant | N,N'-bis(3,4-dibromophenyl)thiourea | 25 mmoles, 13.7 g | BrC=1C=C(C=CC1Br)NC(=S)NC1=CC(=C(C=C1)Br)Br | C13H8Br4N2S
reactant | acetylenedicarboxylic acid | 25 mmoles, 2.7 g | C(#CC(=O)O)C(=O)O | C4H2O4
product | [4-Oxo-3-(3,4-dibromophenyl)-2-[(3,4-dibromophenyl)imino]-5-thiazolidinylidene]acetic acid | 2.1 g | O=C1N(C(SC1=CC(=O)O)=NC1=CC(=C(C=C1)Br)Br)C1=CC(=C(C=C1)Br)Br | C17H8Br4N2O3S
